US05726191
This 3.21 g of 2-bromo-3-hexyl-5,5-dimethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene were placed in 30 ml of abs. tetrahydrofuran under Ar and treated at -78° with 6.75 ml of 1.55M nBuLi (hexane) (1.1 eq.). The metal/halogen exchange was followed by gas chromatography (GC). After 40 min., a large excess of CO2 gas was introduced and the cooling bath was removed. After 10 min., the mixture was poured on to ice/NH4Cl solution, extracted with diethyl ether, washed with H2O, dried over Na2SO4 and the solvent was removed in a vacuum. Flash chromatography on SiO2 (hexane/ethyl acetate=8/2) yielded 2.26 g of 3-hexyl-5,5-dimethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid as white crystals of m.p. 74°-75°.

reactant | 2-bromo-3-hexyl-5,5-dimethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene | 3.21 g | BrC=1C(=CC2=C(CCCCC2(C)C)C1)CCCCCC | C19H29Br
reactant | nBuLi | 1.55M, 6.75 ml, 1.1 eq. | [Li]CCCC
reactant | CO2 | C(=O)=O | CO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-hexyl-5,5-dimethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid | 2.26 g | C(CCCCC)C1=CC2=C(CCCCC2(C)C)C=C1C(=O)O | C20H30O2
